US07384930B2
(S)-4-Chloro-7-(2-oxo-2-(4-(2-oxo-4-phenyl-2,3-dihydroimidazol-1-yl)piperidin-1-yl)ethyl)-9-(pyridin-4-ylmethyl)-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one.
(S)-2-(4-Chloro-8-oxo-9-(pyridin-4-ylmethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetic acid dihydrochloride (100 mg, 0.23 mmol) and 4-phenyl-1-(piperidin-4-yl)-1H-imidazol-2(3H)-one (60 mg, 0.28 mmol) were reacted following a procedure analogous to the preparation of 4-Chloro-9-(2,2-dimethyl-propyl)-7-(S)-{2-oxo-2-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-ethyl}-6,7,9,10-tetrahydro-3H-2,3,9-triaza-cyclohepta[e]inden-8-one. Title compound was obtained as white solid in 30% yield. MS m/e (M+H)+=610.3.

reactant | (S)-2-(4-Chloro-8-oxo-9-(pyridin-4-ylmethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetic acid dihydrochloride | 0.23 mmol, 100 mg | Cl.Cl.ClC1=CC2=C(C=3C=NNC13)CN(C([C@@H](C2)CC(=O)O)=O)CC2=CC=NC=C2
reactant | 4-phenyl-1-(piperidin-4-yl)-1H-imidazol-2(3H)-one | 0.28 mmol, 60 mg | C1(=CC=CC=C1)C=1NC(N(C1)C1CCNCC1)=O | C14H17N3O
reactant | 4-Chloro-9-(2,2-dimethyl-propyl)-7-(S)-{2-oxo-2-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-ethyl}-6,7,9,10-tetrahydro-3H-2,3,9-triaza-cyclohepta[e]inden-8-one | ClC1=CC2=C(C=3C=NNC13)CN(C([C@@H](C2)CC(N2CCC(CC2)N2C(NC1=CC=CC=C1C2)=O)=O)=O)CC(C)(C)C | C31H37ClN6O3
product | (S)-4-Chloro-7-(2-oxo-2-(4-(2-oxo-4-phenyl-2,3-dihydroimidazol-1-yl)piperidin-1-yl)ethyl)-9-(pyridin-4-ylmethyl)-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one | 30% yield | ClC1=CC2=C(C=3C=NNC13)CN(C([C@@H](C2)CC(N2CCC(CC2)N2C(NC(=C2)C2=CC=CC=C2)=O)=O)=O)CC2=CC=NC=C2 | C33H32ClN7O3
